US05013863
A solution of 6.4 g of ethyl 3-phthalimido-2-trimethylsilyloxy-propyl(ethyl)phosphinate in 100 ml of concentrated aqueous hydrochloric acid is heated to reflux for 20 hours. After this time the suspension is cooled to room temperature and filtered. The filtrate is evaporated to dryness, the resulting semi-solid is co-evaporated with water (5×50 ml) and absolute ethanol (5×100 ml) and the white solid is dried in high vacuum overnight. Crystallisation from absolute ethanol/acetone affords 3-amino-2-hydroxy-propyl(ethyl)phosphinic acid hydrochloride, m.p. 114-115°.

reactant | ethyl 3-phthalimido-2-trimethylsilyloxy-propyl(ethyl)phosphinate | 6.4 g | C1(C=2C(C(N1CC(CP(OCC)(=O)CC)O[Si](C)(C)C)=O)=CC=CC2)=O | C18H28NO5PSi
reactant | hydrochloric acid | 100 ml | Cl | ClH
product | 3-amino-2-hydroxy-propyl(ethyl)phosphinic acid hydrochloride | Cl.NCC(CP(O)(=O)CC)O | InChI=1S/C5H14NO3P.ClH/c1-2-10(8,9)4-5(7)3-6;/h5,7H,2-4,6H2,1H3,(H,8,9);1H
